US07351734B2
A mixture of 3-amino-1-benzo[1,3]dioxol-5-yl-1-cyano-1H-indene-2-carboxylic acid methyl ester (10 g) and acetic acid, (30 mL) were heated to 100° C.; 60% aqueous sulfuric acid (20 mL) was added with stirring during 30 min. The mixture was heated to 110° C. for 6 h, cooled to rt, extracted with toluene (50+10 mL), washed with water (3×100 mL), extracted with 0.1 M aqueous sodium hydroxide (100+20 mL), acidified with concentrated hydrochloric acid, extracted with toluene (25+10 mL), and filtrated through activated carbon. Removal of the toluene gave 80% of 1-(benzo[1,3]dioxol-5-yl)-3-oxo-indan-1-carboxylic acid. The acid was subsequently decarboxylated by heating to 100° C. in N-methylpyrrolidone (15 mL) for 1 h. After cooling, the solution was poured into water (40 mL) with efficient stirring. Filtration, washing with water (5×20 mL), dissolution in ethyl acetate (40 mL), filtration through activated carbon and removal of the ethyl acetate gave 80% of 3-(benzo[1,3]dioxol-5-yl)-indan-1-one.

reactant | 3-amino-1-benzo[1,3]dioxol-5-yl-1-cyano-1H-indene-2-carboxylic acid methyl ester | 10 g | COC(=O)C=1C(C2=CC=CC=C2C1N)(C#N)C1=CC2=C(OCO2)C=C1 | C19H14N2O4
reactant | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 1-(benzo[1,3]dioxol-5-yl)-3-oxo-indan-1-carboxylic acid | 80% | O1COC2=C1C=CC(=C2)C2(CC(C1=CC=CC=C21)=O)C(=O)O | C17H12O5
